US07179835B2
(2S)-2-((3S)-3-{(2-Amino-2-oxoethyl)[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid
tert-Butyl (2S)-2-((3S)-3-{(2-amino-2-oxoethyl)[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate (1.4 g) was dissolved in DCM (35 ml), and trifluoroacetic acid (35 ml) was added. The mixture was stirred at room temperature for 2 h and then evaporated under reduced pressure. The residue was azeotroped with anhydrous dichloromethane and then dried under high vacuum. The residual viscous oil was triturated with diethyl ether to give the title compound (1.23 g) as a white solid.

reactant | tert-Butyl (2S)-2-((3S)-3-{(2-amino-2-oxoethyl)[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate | 1.4 g | NC(CN([C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C23H28ClN3O6S
reactant | trifluoroacetic acid | 35 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-((3S)-3-{(2-Amino-2-oxoethyl)[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid | 1.23 g | NC(CN([C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C19H20ClN3O6S
